US08084644B2
THF (45 ml) solution of 3-(phenylthio)acryloyl chloride (3.03 g) was added to THF (45 ml) solution of triethylamine (2.09 ml) under ice-cooling. 3-methylaniline (1.62 g) was added to the mixture under ice-cooling and stirred at room temperature for ten hours. The reaction solution was concentrated under reduced pressure. Ice cooled 1N hydrochloric acid (40 ml) and ethyl acetate (200 ml) were added to the residue and separated to two layer. The organic layer was washed with aqueous saturated sodium chloride solution (40 ml) twice, dried over anhydrous magnesium sulfate, filtered off inorganic salt and concentrated under reduced pressure to obtain N-(3-methylphenyl)-3-(phenylthio)acrylamide (3.46 g).

reactant | THF | 45 ml | C1CCOC1 | C4H8O
reactant | 3-(phenylthio)acryloyl chloride | 3.03 g | C1(=CC=CC=C1)SC=CC(=O)Cl | C9H7ClOS
reactant | THF | 45 ml | C1CCOC1 | C4H8O
reactant | 3-methylaniline | 1.62 g | CC=1C=C(N)C=CC1 | C7H9N
solvent | triethylamine | 2.09 ml | C(C)N(CC)CC | C6H15N
product | N-(3-methylphenyl)-3-(phenylthio)acrylamide | 3.46 g | CC=1C=C(C=CC1)NC(C=CSC1=CC=CC=C1)=O | C16H15NOS
